US04560682
To a mixture of 2,3-dihydro-2,2-dimethyl-7-benzofuranol (16.4 g), 20 ml of 70% perchloric acid and 16 ml of phosphorus oxychloride, dimethyl sulfoxide (7.8 g, 0.1 mol) was gradually added at a temperature of not higher than 5° C. The reaction solution was stirred at room temperature for further one hour, then poured into ice water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, concentrated and then heated and refluxed, together with 200 ml of pyridine, for 4 hours. Pyridine was concentrated under reduced pressure, and the residue was washed with ether. The ether layer was washed with 1N hydrocloric acid and water successibly, then dried over anhydrous sodium sulfate and concentrated. The solid substance thereby obtained was recrystallized from ether-hexane, whereby 9.7 g of 2,3-dihydro-2,2-dimethyl-5-methylthio-7-benzofuranol was obtained. The melting of this product was 57°-59° C. The structure was confirmed by 1H-NMR spectrum and IR spectrum. Then, this phenol derivative was reacted with O-ethyl-ethylthionophosphonic acid chloride in the same manner as in Example 1, whereby the compound (No. 49) identified in Table 1 was obtained.

reactant | 2,3-dihydro-2,2-dimethyl-7-benzofuranol | 16.4 g | CC1(OC2=C(C1)C=CC=C2O)C | C10H12O2
reactant | phosphorus oxychloride | 16 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethyl sulfoxide | 0.1 mol, 7.8 g | CS(=O)C | C2H6OS
solvent | perchloric acid | 20 ml | Cl(=O)(=O)(=O)O | ClHO4
product | 2,3-dihydro-2,2-dimethyl-5-methylthio-7-benzofuranol | 9.7 g | CC1(OC2=C(C1)C=C(C=C2O)SC)C | C11H14O2S
